US04363920
To a solution of 21.6 g (0.1 mole) of 2-(2-thenoyl) thiopropionic acid and 7.5 g (0.1 mole) of glycine in 100 ml of dimethylsulfoxide, 20.6 g of N,N'-dicyclohexyl-carbodiimide are added, under stirring, between 15° to 20° C. Stirring is continued for half an hour more, most of the solvent is evaporated under vacuum, 200 ml of water are added and the solution is taken to pH 9 with NaOH. Dicyclohexylurea is eliminated by filtration, then it is acidified with HCl. 14.2 g (yield 52%) of N-[2-(2-thenoyl)thiopropionyl]-glycine are obtained. The product is unitary in TLC.

reactant | 2-(2-thenoyl) thiopropionic acid | 0.1 mole, 21.6 g | C1(=CC=CS1)C(=O)C(C(=S)O)C | C8H8O2S2
reactant | glycine | 0.1 mole, 7.5 g | NCC(=O)O | C2H5NO2
reactant | N,N'-dicyclohexyl-carbodiimide | 20.6 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
product | N-[2-(2-thenoyl)thiopropionyl]-glycine | 14.2 g, yield 52% | C1(=CC=CS1)C(=O)C(C(=S)NCC(=O)O)C | C10H11NO3S2
